US07157577B2
5-Formyl-4-methyl-1H-pyrrole-2-carboxylic acid ethyl ester was dissolved in water (35 mL) and ethanol (15 mL) with stirring. Potassium hydroxide (2 equivalents, 0.5 g) was added and the mixture heated to 100° C. After 1 hour the mixture was cooled to room temperature and concentrated to about ⅔ volume. The water layer was acidified to pH 3 using 2 N hydrochloric acid. The white solid was collected by vacuum filtration and washed with water to afford 0.67 g (68% yield) of 5-formyl-4-methyl-1H-pyrrole-2-carboxylic acid as a tan solid. 1H-NMR (360 MHz, dimethylsulfoxide-d6) δ 12.92 (br s, 1H, COOH), 12.48 (br s, 1H, NH), 9.76 (s, 1H, CHO), 6.63 (s, 1H, pyrrole CH), 2.28 (s, 3H, CH3). MS m/z 152 [M+−1].

reactant | 5-Formyl-4-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC(=C(C1)C)C=O | C9H11NO3
reactant | ethanol | 15 mL | C(C)O | C2H6O
reactant | Potassium hydroxide | 0.5 g, 2 equivalents | [OH-].[K+]
solvent | water | 35 mL | O | H2O
product | 5-formyl-4-methyl-1H-pyrrole-2-carboxylic acid | 0.67 g, 68% yield | C(=O)C1=C(C=C(N1)C(=O)O)C | C7H7NO3
